US07622583B2
4-tert-Butyl-N-[5-chloro-2-(3-methoxy-benzoyl)-pyridin-3yl]-benzenesulfonamide
N-(2-Bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide (140 mg, 300 mmol) was placed in a dry 2-neck 10 mL round-bottom flask. The flask was evacuated and purged with nitrogen, followed by the addition of THF (1 mL). The homogeneous mixture was lowered to −5° C. and iPrMgCl (0.33 mL, 2.0 M) was added dropwise. Upon completion of the addition, the reaction was stirred 90 minutes, followed by the slow addition of 3,N-dimethoxy-N-methyl-benzamide (146 mg, 750 mmol). The reaction was stirred overnight, during which the ice-bath warmed to room temperature. The following day, the reaction was quenched with a small quantity of MeOH and the solvents evaporated in vacuo. The residue was subsequently treated with 4.0 M HCl in dioxane (1 mL, 4.0 mmol) and H2O (0.33 mL), and then stirred at 80° C. for two hours. The resultant solution was diluted with EtOAc, washed with water, saturated sodium bicarbonate, and brine; dried with MgSO4, and evaporated employing reduced pressure. The crude residue was subsequently purified via reverse phase HPLC (Column: Varian Dynamax 250×21.4 mm Microsorb100-8 C18, 0.1% TFA/H2O (Eluent A): 0.1% TFA/MeCN (Eluent B)): 1H NMR (400 MHz, CDCl3) δ 10.61 (s, 1 H), 8.29 (d, 1 H), 8.20 (d, 1 H), 7.74 (d, 2H), 7.58 (s, 1 H), 7.50 (d, 1 H), 7.42 (d, 2H), 7.37 (d, 1 H), 7.29 (t, 1 H), 2.40 (s, 3H), 1.25 (s, 9H); MS (ES) M+H expect 459.1, found 459.5.

reactant | N-(2-Bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide | 300 mmol, 140 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)COC)Cl | C17H20BrClN2O3S
reactant | 3,N-dimethoxy-N-methyl-benzamide | 750 mmol, 146 mg | COC=1C=C(C(=O)N(C)OC)C=CC1 | C10H13NO3
reactant | HCl | 4.0 M | Cl | ClH
reactant | dioxane | 4.0 mmol, 1 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.33 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-tert-Butyl-N-[5-chloro-2-(3-methoxy-benzoyl)-pyridin-3yl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=CC(=CC=C1)OC)=O | C23H23ClN2O4S
